Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
glipizide
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Exercise Stress Test with nuclear imaging ___

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of IDDM, 
HTN and anxiety presenting with left sided chest and shoulder 
pain. Patient reports that at approximately 17:00 on ___ she 
experienced acute onset left chest and shoulder pain with 
associated nausea and diaphoresis while at rest. She took full 
dose ASA with some improvement but within one hour, pain 
returned, this time to the right shoulder. Pain was rated at 
___ and burning/pressure-like in nature so severely that it 
caused her to yell out for help. Upon EMS arrival, she was given 
2 sprays of nitro with some improvement in pain. Of note, she 
was noted to be bradycardic to 48 on EMS arrival.  
 In the ED initial vitals were: T98.2, HR54, BP150/71, RR18, 
SpO2 97% RA.  
 EKG: rate 47, sinus rhythm, normal axis, 1st degree AV delay 
(PR 212), QTc 409, diffuse ST-segment flattening, old Q waves in 
III and aVF. No significant change from prior.  
 Labs/studies notable for: normal CBC, electrolytes, negative 
troponins x1.  
 Cardiology was consulted who recommended admission out of 
concern for unstable angina.  
 Patient was given: 500cc bolus and started on heparin gtt.  
 Vitals on transfer: T97.8, HR52, BP143/79, RR20, SpO2 98% RA.  
 On the floor, she is accompanied by long-time friend ___. 
The patient states that chest pain has not retruned since 
nitroglycerin administered in the ambulance. She has been chest 
pain free. She does endorse episode of palpitations on ___ 
occurring at rest. She has had no exertional dyspnea, exertional 
chest pain, shortness of breath, orthopnea, PND or new onset leg 
swelling. She does note a 10lb weight loss over the past two 
months, and occasional diarrhea with metformin. She has stable 
diffuse abdominal tenderness.  
 Of note, she was previously on daily aspirin, but was stopped 
by PCP due to history of stomach discomfort.  

 ROS: On review of systems, denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative. Cardiac review of systems is notable 
for absence of dyspnea on exertion, paroxysmal nocturnal 
dyspnea, orthopnea, ankle edema, palpitations, syncope or 
presyncope.  
 
Past Medical History:
PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, 
+diabetes  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 - Bradycardia: underwent Holter monitor ___ and ___ showing 
predominant sinus rhythm  
 3. OTHER PAST MEDICAL HISTORY:  
 - osteoarthritis  
 - dyspepsia  
 - R knee replacement  

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death. Father died after falling off ladder and 
breaking his back. Mother died of complications from diabetes. 
One younger sister with asthma and another with diabetes 
mellitus.  
 
Physical Exam:
ADMISSION EXAM
=================
VS: T 97.4, BP 166/75, HR 48, RR 16, SpO2 97%.  
 GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. Dentures in 
place. No xanthelasma.  
 NECK: Supple with JVP of 5 cm.  
 CARDIAC: Bradycardic, normal S1, S2. No murmurs/rubs/gallops. 
No thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, mild diffuse tenderness, no rebound or guarding. 
No HSM or tenderness. Normal active bowel sounds.  
 EXTREMITIES: No c/c/e.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric.  

DISCHARGE EXAM
==================
VS: T 97.4, BP 166/75  39-48  16  97% RA
 GENERAL: WDWN female in NAD. Oriented x3. Mood, affect 
appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. Dentures in 
place. No xanthelasma.  
 NECK: Supple with JVP of 5 cm.  
 CARDIAC: Bradycardic, normal S1, with decreased S2. No 
murmurs/rubs/gallops. No thrills, lifts.  
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, mild diffuse tenderness, no rebound or guarding. 
No HSM or tenderness. Normal active bowel sounds.  
 EXTREMITIES: No c/c/e.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric. 

 
Pertinent Results:
ADMISSION LAB
====================
___ 01:40AM   ___ PTT-25.2 ___
___ 01:40AM   WBC-4.9 RBC-4.00 HGB-11.2 HCT-36.4 MCV-91 
MCH-28.0 MCHC-30.8* RDW-12.8 RDWSD-41.9
___ 01:40AM   CALCIUM-8.9 PHOSPHATE-2.7 MAGNESIUM-1.8
___ 01:40AM   cTropnT-<0.01
___ 01:40AM   GLUCOSE-134* UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-107 TOTAL CO2-25 ANION GAP-13
___ 09:00AM   ___ PTT-80.3* ___
___ 09:00AM   WBC-3.9* RBC-3.90 HGB-10.8* HCT-34.0 MCV-87 
MCH-27.7 MCHC-31.8* RDW-13.0 RDWSD-40.4
___ 09:00AM   cTropnT-<0.01

IMAGES/STUDIES
=======================
STRESS ___:
INTERPRETATION: This ___ year old IDDM woman with hx of HTN and 
HL 
was referred to the lab for evaluation of chest discomfort. She 
exercised for 9.25 minutes on ___ protocol and stopped due to 
fatigue. 
The peak estimated MET capacity is 7.3, which represents a good 
exercise 
tolerance for her age. She did not report any chest, arm, neck 
or back 
discomfort throughout the test. No significant ST segment 
changes were 
seen throughout the test. Rhythm was sinus with rare isolated 
APBs and 
periods of junctional or atr escape. Baseline mild systolic HTN 
with 
appropriate hemodynamic response to exercise and recovery. 
Patient 
presented to the lab feeling symptoms of hypoglycemia in the 
form of 
unable to focus, blood sugar measured was 69 mg/dl. Patient 
given 8 oz 
of juice and 200 mg of D5W, which raised blood sugar to 114 
mg/dl. 
IMPRESSION : No anginal symptoms or ischemic EKG changes. 
Nuclear report 
sent separately. 

ECG ___:
Sinus bradycardia. A-V conduction delay. Inferior Q waves 
suggesting a prior old myocardial infarction. Non-specific 
diffuse T wave flattening. Compared to the previous tracing of 
___ the heart rate is slower, but other findings are 
similar. 

Cardiac Perfusion ___:
IMPRESSION:   1. Normal myocardial perfusion study.   
2. Normal wall motion with estimated left ventricular ejection 
fraction of 69%.

Chest XRay ___:
IMPRESSION:  
No acute intrathoracic process. 

DISCHARGE LABS
=====================
___ 09:00AM BLOOD WBC-3.9* RBC-3.90 Hgb-10.8* Hct-34.0 
MCV-87 MCH-27.7 MCHC-31.8* RDW-13.0 RDWSD-40.4 Plt ___
___ 09:00AM BLOOD Glucose-102* UreaN-11 Creat-0.8 Na-143 
K-4.2 Cl-107 HCO3-27 AnGap-13
___ 09:00AM BLOOD Calcium-9.3 Phos-2.9 Mg-1.7
___ 09:00AM BLOOD cTropnT-<0.___ with multiple cardiac risk factors (DM, HTN, HLD) presenting 
with acute onset chest pain responsive to nitroglycerin with 
negative initial cardiac biomarkers.  

 # CHEST PAIN: Patient presenting with chest pain occurring at 
rest and relieved by nitroglycerin. TIMI risk score 3 (age, > 3 
CAD risk factors, > 2 angina episodes). No ECG changes or 
biomarker elevation, but she is high risk given multiple risk 
factors for coronary artery disease. Patient treated with 
heparin gtt for 24 hours, Simvastatin was changed to 
Atorvastatin, and beta blockage was not given due to 
bradycardia. Patient went for stress test on ___. Stress test 
and myocardial perfusion study, were both normal. There was 
normal wall motion with estimated left ventricular ejection 
fraction of 69%. Heparin gtt stopped, Atorvastatin stopped and 
Simvastatin was restarted. Of note, patient had not been on 
daily ASA at home because it was causing GI upset. Patient's 
pain was non-cardiac in nature and she was discharged with close 
PCP follow up for further evaluation. Patient did not have any 
chest pain while in hospital. 

 # SINUS BRADYCARDIA: Patient with HRs in the 40-50s but 
completely asymptomatic from bradycardia. Patient had been 
previously evaluated with multiple Holter monitors revealing AV 
delay and atrial ectopy. No beta blockade given while in house.  


CHRONIC ISSUES:
 # DIABETES MELLITUS: No microvascular complications. Patient on 
oral agents and insulin. Insulin sliding scale while inpatient.  

 # HLD: Continued home simvastatin.  
 # HTN: Continued home losartan and HCTZ.  
 # DEPRESSION: Continued home fluoxetine.  

TRANSITIONAL ISSUES
=======================
-Consider starting ASA 81mg at home w/ food for primary 
prevention, as tolerated from dyspepsia perspective.
 # LANGUAGE SPOKEN: ___  
 # CODE: Full, confirmed
 # CONTACT: ___, husband/HCP, ___, 
___ (friend, MICU nurse at ___, secondary HCP) 
___ (c)  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Losartan Potassium 50 mg PO DAILY 
2. MetFORMIN (Glucophage) 1500 mg PO BID 
3. Simvastatin 40 mg PO QPM 
4. Glargine 10 Units Breakfast
Glargine 10 Units Bedtime
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcium Carbonate 800 mg PO DAILY 
8. Hydrochlorothiazide 12.5 mg PO DAILY 
9. FLUoxetine 10 mg PO DAILY 

 
Discharge Medications:
1. FLUoxetine 10 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Glargine 10 Units Breakfast
Glargine 10 Units Bedtime
4. Losartan Potassium 50 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Calcium Carbonate 800 mg PO DAILY 
8. MetFORMIN (Glucophage) 1500 mg PO BID 
9. Simvastatin 40 mg PO QPM 
10. Acetaminophen 325-650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
======================
-Non-cardiac chest pain

SECONDARY DIAGNOSIS
======================
-Hypertension
-Dyslipidemia
-Diabetes  
-Osteoarthritis  
-Dyspepsia  
-R knee replacement  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

___ was a pleasure to care for you at ___. You came to us for 
left chest and shoulder pain and also right shoulder pain that 
was associated with sweating and nausea. While here we looked at 
various images and also checked blood markers for heart muscle 
injury and all of these were negative for cardiovascular 
disease. This is great news! This leads us to believe that your 
pain may have been more musculoskeletal in nature and not so 
much a heart condition. 

The best thing for you to do is to follow up with your primary 
care doctor to discuss what other things could cause your pain 
and different ways to prevent and/or treat your pain. For now, 
we recommend taking Tylenol as needed for pain control, no more 
than 4000mg of Tylenol per day.

It was a pleasure to meet you. 

We wish you the best,

Your ___ Team
 
Followup Instructions:
___